US04219497
80.4 millimole (mm) of 3-phenyl-2-benzamido-1-chloropropane and 80.4 mm of thiourea are dissolved in 300 ml of ethanol. The resulting solution is refluxed for three hours. 6.7 g of sodium hydroxide is dissolved in 40 ml of water and is added under an inert atmosphere to the solution which is thereafter refluxed for an additional 21/2 hours. The solution is then cooled and acidified to pH 1 with 1 N HCl. The resulting mixture is then poured over ice to yield a precipitate which is collected by filtration and then dissolved in chloroform. The chloroform is dried with magnesium sulfate and then evaporated to yield the solid 3-phenyl-2-benzamido-1-propanethiol.

reactant | 3-phenyl-2-benzamido-1-chloropropane | 80.4 millimole | C1(=CC=CC=C1)CC(CCl)NC(C1=CC=CC=C1)=O | C16H16ClNO
reactant | thiourea | NC(=S)N | CH4N2S
reactant | sodium hydroxide | 6.7 g | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 3-phenyl-2-benzamido-1-propanethiol | C1(=CC=CC=C1)CC(CS)NC(C1=CC=CC=C1)=O | C16H17NOS
